US09102669B2
To a mixture of 1-(1-(6-chloropyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline (100 mg, 0.3 mmol) and Pd(PPh3)4 (35 mg, 0.03 mmol) was added 1,4-dioxane (2 mL) and then 3-methyl-2-tributylstannylthiazole (232 mg, 0.6 mmol). The resulting mixture was sealed and heated at 140° C. for 1.5 h. The resulting mixture was then absorbed on silica gel and purified by silica gel column using 40% EtOAc/hexane as the eluent to yield 2-(6-(4-(6-fluoroindolin-1-yl)piperidin-1-yl)pyridazin-3-yl)-5-methylthiazole.

reactant | 1-(1-(6-chloropyridazin-3-yl)piperidin-4-yl)-6-fluoroindoline | 0.3 mmol, 100 mg | ClC1=CC=C(N=N1)N1CCC(CC1)N1CCC2=CC=C(C=C12)F | C17H18ClFN4
reactant | 3-methyl-2-tributylstannylthiazole | 0.6 mmol, 232 mg | CN1C(SC=C1)[Sn](CCCC)(CCCC)CCCC
reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.03 mmol, 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(6-(4-(6-fluoroindolin-1-yl)piperidin-1-yl)pyridazin-3-yl)-5-methylthiazole | FC1=CC=C2CCN(C2=C1)C1CCN(CC1)C1=CC=C(N=N1)C=1SC(=CN1)C | C21H22FN5S
